US07238706B2
Step 1: Ethyl 2-(trans)-(4-bromophenyl)cyclopropanecarboxylate
To a mixture of ethyl 4-bromocinnamate and Pd(OAc)2 (0.05 eq) in methylene chloride (1M) at 0° C. was added dropwise a solution of CH2N2 in ether until the reaction was completed by NMR analysis. The mixture was filtered through a plug of silica gel and concentrated to afford the title compound as an oil.

reactant | ethyl 4-bromocinnamate | BrC1=CC=C(C=CC(=O)OCC)C=C1 | C11H11BrO2
reactant | methylene chloride | 1M | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
catalyst | Pd(OAc)2 | 0.05 eq | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Ethyl 2-(trans)-(4-bromophenyl)cyclopropanecarboxylate | BrC1=CC=C(C=C1)[C@H]1[C@@H](C1)C(=O)OCC | C12H13BrO2
